US20010049385A1
Step 1: 4,5,6,7-Tetrahydro-1H-benzimidazole-5-carboxylic acid, hydrochloride salt
A solution of benzimidazole-5-carboxylic acid (10 g, 62 mmol) in 1 N HCl (70 ml) and H2O (30 ml) was hydrogenated at 100 bar and 80° C. in the presence of 10% palladium on carbon (2.5 g) for 2 days. The mixture was filtered and the solvent was evaporated. The residue was stirred with acetone (100 ml) and the solid was isolated and dried. This afforded 10.6 g (79%) of 4,5,6,7-tetrahydro-1H-benzimidazole-5-carboxylic acid hydrochloride.

reactant | benzimidazole-5-carboxylic acid | 62 mmol, 10 g | N1=CNC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | HCl | 1 N, 70 ml | Cl | ClH
solvent | H2O | 30 ml | O | H2O
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
product | 4,5,6,7-Tetrahydro-1H-benzimidazole-5-carboxylic acid, hydrochloride salt | Cl.N1C=NC2=C1CCC(C2)C(=O)O | InChI=1S/C8H10N2O2.ClH/c11-8(12)5-1-2-6-7(3-5)10-4-9-6;/h4-5H,1-3H2,(H,9,10)(H,11,12);1H
